US07812040B2
4-Hydroxy-2,5-dimethoxybenzaldehyde.
POCl3 was added dropwise (T<20° C.) to a solution of intermediate 57, 2,5-Dimethoxyphenol (10.8 g, 0.07 mol) in DMF (22 mL, 0.28 mol) under vigorous stirring and cooling with an ice bath. The reaction mixture was stirred at room temperature for 72 h, then at 50° C. for 48 h, cooled, and diluted with H2O and ether (50 mL each). The solution was alkalized to pH 6 with a 10 N solution of NaOH. The aqueous layer was separated and subjected to extraction with ether. The combined extracts were dried and evaporated. The residue was recrystallized from ether. The obtained crystals were dissolved under argon in MeOH (20 mL). NaOH (0.5 g, 12 mmol) was added, and the mixture was stirred for 12 h. Then pH was brought to 6 with a 5 M solution of NaHSO4 (2.4 mL), and the mixture was evaporated. The residue was dissolved in CHCl3. The solution was washed with H2O, dried, and evaporated to give the title compound (1.2 g, 10%) as yellow crystals. 1H NMR data (DMSO-d6): 10.37 (s, 1H, —COH), 10.14 (s, 1H, Ar—OH), 7.17 (s, 1H, Ar—H), 6.60 (s, 1H, Ar—H), 3.81 (s, 3H, —OCH3), 3.76 (s, 3H, —OCH3).

reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2,5-Dimethoxyphenol | 0.07 mol, 10.8 g | COC1=C(C=C(C=C1)OC)O | C8H10O3
reactant | DMF | 0.28 mol, 22 mL | CN(C)C=O | C3H7NO
reactant | NaOH | [OH-].[Na+]
reactant | NaOH | 12 mmol, 0.5 g | [OH-].[Na+]
reactant | NaHSO4 | 2.4 mL | OS(=O)(=O)[O-].[Na+]
solvent | H2O | O | H2O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 4-Hydroxy-2,5-dimethoxybenzaldehyde | 1.2 g, 10% | OC1=CC(=C(C=O)C=C1OC)OC | C9H10O4
